US08242125B2
To a solution of 4-(1H-indol-5-yloxy)-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester (158 mg, 0.44 mmol) in DMF (4 mL), CDI (145 mg, 0.89 mmol) is added in one portion, followed by TEA (0.37 mL, 2.7 mmol). After 3 h at rt, 3-methoxy-5-trifluoromethyl-phenylamine (514 mg, 2.7 mmol) and DMAP (5.5 mg, 0.04 mmol) are added and the reaction is left stirring for 40 h. Ethyl acetate (2 mL) is added followed by the addition of 1 N HCl solution (3 mL). The organics are extracted with EtOAc (×3) and concentrated. The crude mixture is dissolved in CH2Cl2 (10 mL) and cooled to 0° C. and TFA (10 mL, 130 mmol) is added. The reaction is allowed to reach it over 2 h. The reaction mixture is evaporated, redissolved in EtOAc and few drops of NH4OH are added to freebase the amine. The solvent is removed and the residue separated by FCC (DCM/MeOH/NH4OH (100:0:0 to 93:6:1)) to give 5-(6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-methoxy-5 trifluoromethyl-phenyl)-amide. MS (ESI) m/z 471.0 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.50-8.56 (m, 1H) 7.93 (d, J=3.54 Hz, 1H) 7.59 (d, J=19.71 Hz, 2H) 7.42 (d, J=2.27 Hz, 1H) 7.12 (dd, J=8.97, 2.40 Hz, 1H) 6.96 (s, 1H) 6.73 (d, J=3.79 Hz, 1H) 6.52 (s, 1H) 4.19 (d, J=8.34 Hz, 4H) 3.76 (s, 3H)

reactant | 4-(1H-indol-5-yloxy)-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester | 0.44 mmol, 158 mg | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2C1)OC=1C=C2C=CNC2=CC1 | C19H20N4O3
reactant | CDI | 0.89 mmol, 145 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-methoxy-5-trifluoromethyl-phenylamine | 2.7 mmol, 514 mg | COC=1C=C(C=C(C1)C(F)(F)F)N | C8H8F3NO
reactant | HCl | 1 N, 3 mL | Cl | ClH
reactant | TFA | 130 mmol, 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.04 mmol, 5.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 5-(6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-methoxy-5 trifluoromethyl-phenyl)-amide | COC=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNC2 | C23H18F3N5O3
